US08629160B2
(3-Bromopropoxy)benzene (19.7 μl, 0.12 mmol) was added to a solution of methyl 3-(2-oxo-1-phenyl-2-((R)-quinuclidin-3-yloxy)ethylamino)thiophene-2-carboxylate (C11) (50 mg, 0.12 mmol) in EtOAc (2 ml). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated, and the residue was triturated with Et2O and then purified by preparative HPLC (Eluent: CH3CN/H2O) to obtain (3R)-3-(2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-phenylacetoxy)-1-(3-phenoxypropyl)-1-azoniabicyclo[2.2.2]octane bromide (25.3 mg, 32.9% yield).

reactant | (3-Bromopropoxy)benzene | 0.12 mmol, 19.7 μl | BrCCCOC1=CC=CC=C1 | C9H11BrO
reactant | methyl 3-(2-oxo-1-phenyl-2-((R)-quinuclidin-3-yloxy)ethylamino)thiophene-2-carboxylate | 0.12 mmol, 50 mg | O=C(C(C1=CC=CC=C1)NC1=C(SC=C1)C(=O)OC)O[C@H]1CN2CCC1CC2 | C21H24N2O4S
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-phenylacetoxy)-1-(3-phenoxypropyl)-1-azoniabicyclo[2.2.2]octane bromide | 25.3 mg, 32.9% yield | [Br-].COC(=O)C=1SC=CC1NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CCCOC2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C30H34N2O5S.BrH/c1-35-30(34)28-25(15-20-38-28)31-27(23-9-4-2-5-10-23)29(33)37-26-21-32(17-13-22(26)14-18-32)16-8-19-36-24-11-6-3-7-12-24;/h2-7,9-12,15,20,22,26-27H,8,13-14,16-19,21H2,1H3;1H/t22?,26-,27?,32?;/m0./s1
